US07169810B2
3-{4-[(4-{[Anilino(phenylimino)methyl]amino}phenethyl)oxy]phenyl}-2-ethoxypropanoic acid
3-{4-[(4-Aminophenethyl)oxy]phenyl}-2-ethoxypropanoic acid (20 mg, 0.061 mmol) and methyl N,N′-diphenylcarbamimidothioate hydroiodide (23.7 mg, 0.064 mmol) were mixed in 0.3 ml N,N-dimethylformamide. Triethylamine (34 ml, 0.244 mmol) was added. The mixture was then cooled in an ice-bath. Mercury (II)chloride (18 mg, 0.066 mmol) was added. After 30 minutes, the cooling bath was removed. The reaction mixture was stirred overnight. Water (1 ml) and ethyl acetate (0.5 ml) were added and then hydromatrix (ca. 0.5 g) was added. After a while, the mixture was filtered. The filtrate was evaporated to dryness. Chromatography of the residue on an ISOLUTE column (SI, 500 mg/3 ml) using ethyl acetate/heptane (10:90, then 25:75, and then 50:50) as eluant gave 16 mg, yield 50% of the desired product.

reactant | 3-{4-[(4-Aminophenethyl)oxy]phenyl}-2-ethoxypropanoic acid | 0.061 mmol, 20 mg | NC1=CC=C(CCOC2=CC=C(C=C2)CC(C(=O)O)OCC)C=C1 | C19H23NO4
reactant | methyl N,N′-diphenylcarbamimidothioate hydroiodide | 0.064 mmol, 23.7 mg | I.C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)SC
reactant | Triethylamine | 0.244 mmol, 34 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
catalyst | Mercury (II)chloride | 0.066 mmol, 18 mg | [Hg](Cl)Cl
product | 3-{4-[(4-{[Anilino(phenylimino)methyl]amino}phenethyl)oxy]phenyl}-2-ethoxypropanoic acid | 16 mg, yield 50% | N(C1=CC=CC=C1)C(=NC1=CC=CC=C1)NC1=CC=C(CCOC2=CC=C(C=C2)CC(C(=O)O)OCC)C=C1 | C32H33N3O4
